US06573387B1
General experimental procedure for the preparation of 300 FIG. 10, Scheme D: Reaction conditions: (a) 1. NaH, THF, 0° C. to RT; 2. RCl; (b) 1. LDA, THF, −78° C.; 2. PhSeCl, HMPA, THF, −78° C. to RT; (c) MCPBA, CH2Cl2, 0° C. to RT. Typical experimental procedure for the preparation of 5-described for the case in which n=2 and R=Bn: Sodium hydride dispersion in oil (60%, 2.08 g, 52.0 mmol) was washed with anhydrous hexane (3×10 mL) under argon atmosphere, resuspended in dry THF (50 mL), and cooled to 0° C. A solution of d-valerolactam (97%, 4.65 g, 45.5 mmol) in dry THF (200 mL) was slowly added to the former suspension. The mixture was stirred at 0° C. for 30 min, and at room tempreature until cessation of hydrogen evolution. Benzyl chloride (5.2 mL, 45.4 mmol) was added dropwise under argon atmosphere, and the new mixture was refluxed until completion of the alkylation was observed on tlc (48 h). The reaction was quenched with H2O (200 mL), the layers were separated, and the aqueous phase was extracted first with Et2O then with CH2Cl2. The combined organic extracts were dried, and the solvent and the remaining. benzyl chloride were evaporated under vaccum to furnish N-benzyl-2-piperidone as a pale oil, which was used without purification. Yield: 69%. To a solution of N-benzyl-2-piperidone (2.0 g, 10.6 mmol) in dry THF (20 mL), cooled at −78° C. and under argon atmosphere, a solution of LDA (1.5 M, 14.84 mL, 22.3 mmol) was added dropwise. After stirring for 10 min, a solution of phenylselenyl chloride (97%, 2.09 g, 10.6 mmol) and HMPA (97%, 2.87 g, 15.9 mmol) in dry THF (20 mL) was slowly added at −78° C. The resulting orange solution was maintained at −78° C. for 20 min and left to reach room temperature. The reaction mixture was poured on H2O and extracted with Et2O. The combined organic extracts were subsequently washed with 10% aqueous NaOH, H2O, 10% aqueous HCl, and brine. The organic phase, dried and evaporated yielded an oil which was flash chromatographed (Et2O) to obtain N-benzyl-3-phenylselenyl-2-piperidone as a transparent brown oil. Yield: 69%. To a solution of N-benzyl-3-phenylselenyl-2-piperidone (2.69 g, 7.82 mmol) in CH2Cl2 (35 mL), cooled at 0° C., a solution of MCPBA (50%, 3.37 g, 9.76 mmol) in CH2Cl2 (40 mL) was slowly added. The mixture was allowed to reach room temperature and was stirred overnight (16 h). The crude reaction mixture was poured on a saturated aqueous NaHCO3 solution, dried and evaporated to yield an oil which was flash chromatographed (9:1 Et2O:MeOH) to yield pure N-benzyl-D3-piperidein-2-one. Yield: 90%.

reactant | N-benzyl-2-piperidone | 10.6 mmol, 2.0 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | LDA | 22.3 mmol, 1.5 M, 14.84 mL | [Li+].CC(C)[N-]C(C)C
reactant | phenylselenyl chloride | 10.6 mmol, 2.09 g | C1(=CC=CC=C1)[Se]Cl | C6H5ClSe
reactant | HMPA | 15.9 mmol, 2.87 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | N-benzyl-3-phenylselenyl-2-piperidone | Yield: 69% | C(C1=CC=CC=C1)N1C(C(CCC1)(C1=CC=CC=C1)[SeH])=O | C18H19NOSe
